US07419984B2
6-(2-Benzyloxy-5-chloro-phenyl)-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 72, 4-(2-benzyloxy-5-chloro-phenyl)-6-chloro-pyrimidin-2-ylamine and 4-chloro-aniline provided the title compound (98% yield). 1H NMR (CD3OD) δ 5.26 (s, 2H, CH2), 6.44 (s, 1H, Ar), 7.21 (d, 1H, J=8.8 Hz, Ar), 7.33-7.36 (m, 2H, Ar), 7.38-7.43 (m, 4H, Ar), 7.45 (d, 1H, J=8.8 Hz, Ar), 7.58-7.61 (m, 2H, Ar), 7.80-7.82 (m, 2H, Ar).

reactant | 4-(2-benzyloxy-5-chloro-phenyl)-6-chloro-pyrimidin-2-ylamine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)C1=NC(=NC(=C1)Cl)N | C17H13Cl2N3O
reactant | 4-chloro-aniline | ClC1=CC=C(N)C=C1 | C6H6ClN
product | 6-(2-Benzyloxy-5-chloro-phenyl)-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine | 98% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)Cl | C23H18Cl2N4O
